US04636516
In 10 ml of methanol was dissolved 1.3 g of 6-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-thiocyanato-2,3-dihydroimidazo[2,1-b]thiazole and after cooling the solution to 0° C., 0.65 g of methyl iodide was added dropwise to the solution with stirring and further a solution of 0.2 g of potassium hydroxide dissolved in a mixture of 2 ml of water and 2 ml of methanol was added dropwise to the solution. After 30 minutes, the reaction mixture was concentrated and the residue was purified by silica gel column chromatography using chloroform as the eluent and further recrystallized from ethanol to provide 0.18 g of 6-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-methylthio-2,3-dihydroimidazo[2,1-b]thiazole.

reactant | 6-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-thiocyanato-2,3-dihydroimidazo[2,1-b]thiazole | 1.3 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1N=C2SCCN2C1SC#N | C20H25N3OS2
reactant | methyl iodide | 0.65 g | CI | CH3I
reactant | potassium hydroxide | 0.2 g | [OH-].[K+]
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 2 ml | O | H2O
solvent | methanol | 2 ml | CO | CH4O
product | 6-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-methylthio-2,3-dihydroimidazo[2,1-b]thiazole | 0.18 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1N=C2SCCN2C1SC | C20H28N2OS2
